US04100280
A reaction mixture containing 21 g. of potassium carbonate, 25 g. of methanethiol and 30 ml. of ethanol was cooled in an ice-water bath. 33.5 g. of 3-bromo-4-nitro-veratrole were added thereto. The reaction mixture was stirred for 1 hour under cooling and was then allowed to warm up to ambient temperature, at which temperature it was stirred for an additional 24 hours. 3 l. of water were then added and the resulting precipitate of 3-methylthio-4-nitroveratrole formed in the above reaction was separated by filtration. The filter cake was recrystallized from a benzene-ethanol solvent mixture to yield yellow crystals melting at 137°-140° C. (weight = 22.8 g)

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanethiol | CS | CH4S
reactant | ethanol | C(C)O | C2H6O
reactant | 3-bromo-4-nitro-veratrole | BrC1=C(C(=CC=C1[N+](=O)[O-])OC)OC | C8H8BrNO4
solvent | water | O | H2O
product | 3-methylthio-4-nitroveratrole | CSC1=C(C(=CC=C1[N+](=O)[O-])OC)OC | C9H11NO4S
